US07482341B2
To 6′-Nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl (0.25 g) in THF (8 mL) was added iron (0.539 mg) and water (2.5 mL). Then acetic acid (0.35 mL) was added dropwise and the mixture was allowed to stir at 45° C. for 12 hours. TLC analysis confirmed complete consumption of the starting material. The suspension was filtered through celite and the filter cake was washed well with ethyl acetate. The filtrate was concentrated in vacuo prior to addition of 2N NaOH. The aqueous layer was saturated with NaCl and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4 and evaporated to give a residue that was purified by flash chromatography on silica gel (gradient of MeOH in DCM containing 0.5% NH4OH). 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine was obtained as a black oil (0.196 g). MS (ESI): 178.1 (MH+).

reactant | 6′-Nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | 0.25 g | [N+](=O)([O-])C1=CC=C(C=N1)N1CCCCC1 | C10H13N3O2
reactant | water | 2.5 mL | O | H2O
reactant | acetic acid | 0.35 mL | C(C)(=O)O | C2H4O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | iron | 0.539 mg | [Fe] | Fe
product | 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamine | N1(CCCCC1)C=1C=NC(=CC1)N | C10H15N3
